US05817679
b) Preparation of N-t-butoxycarbonyl-2-methylpyrrole (50)
2-Methyl pyrrole (2.5 g) was dissolved in 6 ml tetrahydrofuran, and was slowly added to a suspension of 2.4 g 60% sodium hydride (washed with ether) in 30 ml tetrahydrofuran. A solution of 7.6 g di-t-butyl-dicarbonate in 20 ml of the same solvent was added to this cooled mixture. After shaking occasionally for 3 hours, it was decomposed carefully with water, and extracted with ether. The combined organic layer was washed with saturated brine and dried over magnesium sulfate. Removal of the solvent gave 6 g residue. Bulb-to-bulb distillation gave 4.5 g slightly yellow oil (ca. 80° C./5 mmHg). Yield 80%. MS(CI), 183(M+2). H1 -NMR (CDCl3) δ 1.584 (s, 9H, 3CH3), 2.421 (s, 3H, CH3).

reactant | 2-Methyl pyrrole | 2.5 g | CC=1NC=CC1 | C5H7N
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | di-t-butyl-dicarbonate | 7.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-t-butoxycarbonyl-2-methylpyrrole | 6 g, Yield 80% | C(C)(C)(C)OC(=O)N1C(=CC=C1)C | C10H15NO2
